US07294636B2
4-(2-Methyl-2H-tetrazol-5-yl)-piperidine
To a solution of tert-butyl 4-(2H-tetrazol-5-yl)piperidine-1-carboxylate (CAS 91419-58-8) (0.98 g, 3.89 mmol) and triphenylphosphine (3.06 g) in THF under a blanket of Ar was added the diisopropyl azodicarboxylate (2.30 ml) and the mixture stirred for 10 minutes. Methanol (473 μl) was added and the reaction was stirred for 18 hours and then the solution was concentrated in vacuo. The residue was purified on silica using a 90 g Biotage cartridge and a gradient elution of 25 to 35% ethyl acetate in hexanes. This semi-pure mixture was partially dissolved in a 4M HCl in dioxane solution and stirred for 1 hour, then concentrated in vacuo. The residue was partially dissolved in DCM (40 ml) and triethylamine (162 μl) and MP-Carbonate (4.17 g, loading 2.8 mmol/g) added and slurry stirred for 64 hours. The resin was filtered off and washed with a 10% solution of methanol in DCM and the filtrate was concentrated in vacuo. The residue was purified by column chromatography on SCX-2 stationary phase using methanol and then a 1M ammonia in methanol solution. Evaporation of the solvent under reduced pressure gave the title compound as a yellow solid (0.502 g); NMR (CDCl3): 1.78 (2H, m), 2.06 (2H, d), 2.77 (2H, m), 3.08 (1H, m), 3.19 (2H, d), 3.08 (3H, s).

reactant | tert-butyl 4-(2H-tetrazol-5-yl)piperidine-1-carboxylate | 3.89 mmol, 0.98 g | N=1NN=NC1C1CCN(CC1)C(=O)OC(C)(C)C | C11H19N5O2
reactant | triphenylphosphine | 3.06 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diisopropyl azodicarboxylate | 2.30 ml | N(=NC(=O)OC(C)C)C(=O)OC(C)C | C8H14N2O4
reactant | Methanol | 473 μl | CO | CH4O
solvent | THF | C1CCOC1 | C4H8O
product | 4-(2-Methyl-2H-tetrazol-5-yl)-piperidine | 0.502 g | CN1N=C(N=N1)C1CCNCC1 | C7H13N5
